US05451601
4.0 cm3 of a 1M solution of lithium tri-sec-butylboro-hyride in tetrahydrofuran is added over 5 minutes to a solution, cooled to 0° C., of 1.3 g of (3aR,7aR)-2-benzyl-7,7-diphenyl-4-perhydroisoindolone in 6.0 cm3 of tetrahydrofuran. After stirring for 3 hours at 0° C., 0.5 cm3 of the 1M solution of borohydride is again added to the reaction mixture. After 1 hour at 0° C., followed by the addition of 50 cm3 of water and 50 cm3 of ethyl acetate, the organic phase is decanted, washed with 20 cm3 of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained is crystallized from 30 cm3 of diisopropyl oxide, the crystals are drained and dried under reduced pressure (2.7 kPa). 0.70 g of (3aR,4R,7aR)-2-benzyl-7,7-diphenyl-4-perhydroisoindolol is obtained in the form of white crystals; melting point 154° C.

reactant | lithium | [Li] | Li
reactant | (3aR,7aR)-2-benzyl-7,7-diphenyl-4-perhydroisoindolone | 1.3 g | C(C1=CC=CC=C1)N1C[C@H]2C(CCC([C@H]2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H27NO
reactant | borohydride | [BH4-]
reactant | water | 50 cm3 | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.0 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
product | (3aR,4R,7aR)-2-benzyl-7,7-diphenyl-4-perhydroisoindolol | 0.70 g | C(C1=CC=CC=C1)N1C[C@H]2C(CC[C@H]([C@H]2C1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO
